US06992087B2
Preparation of cis-(+/−)-4-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}tetrahydrofuran-3-ol
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting cis-(+/−)-4-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol and 2-chloro-4-methoxyphenylboronic acid and making non-critical variations provided the title compound as a light yellow amorphous solid. IR (diffuse reflectance) 3420, 2969, 2935, 2873, 1604, 1568, 1482, 1439, 1397, 1393, 1287, 1229, 1204, 1181, 1044 cm−1; OAMS supporting ions at: ESI+ 378.1; MS (EI) m/z 377 (M+); HRMS (FAB) calcd for C19H24CLN3O3+H1 378.1584, found 378.1566. Anal. Calcd for C19H24ClN3O3: C, 60.39; H, 6.40; N, 11.12. Found: C, 59.97; H, 6.46; N, 10.99.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | cis-(+/−)-4-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]tetrahydrofuran-3-ol | BrC=1N=C(C(=NC1CC)N[C@@H]1[C@@H](COC1)O)CC | C12H18BrN3O2
reactant | 2-chloro-4-methoxyphenylboronic acid | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | cis-(+/−)-4-{[5-(2-chloro-4-methoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}tetrahydrofuran-3-ol | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@@H]1[C@@H](COC1)O)CC | C19H24ClN3O3
